US08114872B2
N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-4-(7-(2-chloro-5-(1-(methylamino)ethyl)pyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine
Combine tert-butyl 1-(4-(2-(2-(2-(1H-1,2,3-triazol-1-yl)ethylamino)pyrimidin-4-yl)benzo[b]thiophen-7-yl)-6-chloropyridin-3-yl)ethyl(methyl)carbamate (300 mg, 0.5 mmol) and dry TFA (2.0 mL) in dry DCM (6 mL). Stir the solution at RT for 1 h. Dilute the resulting residue with DCM and wash with saturated sodium bicarbonate solution, water, and saturated aqueous sodium chloride. Separate the organic layer and dry over magnesium sulfate. Filter and concentrate in vacuo to give a residue. Purify the residue by column chromatography [0.1% to 2% 2 M ammonia in methanol/DCM] to afford the title compound (175 mg, 70%). MS (ES) m/z 491 [M+1]+.

reactant | tert-butyl 1-(4-(2-(2-(2-(1H-1,2,3-triazol-1-yl)ethylamino)pyrimidin-4-yl)benzo[b]thiophen-7-yl)-6-chloropyridin-3-yl)ethyl(methyl)carbamate | 0.5 mmol, 300 mg | N1(N=NC=C1)CCNC1=NC=CC(=N1)C1=CC2=C(S1)C(=CC=C2)C2=C(C=NC(=C2)Cl)C(C)N(C(OC(C)(C)C)=O)C | C29H31ClN8O2S
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-4-(7-(2-chloro-5-(1-(methylamino)ethyl)pyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine | 175 mg, 70% | N1(N=NC=C1)CCNC1=NC=CC(=N1)C1=CC2=C(S1)C(=CC=C2)C2=CC(=NC=C2C(C)NC)Cl | C24H23ClN8S
